US09399640B2
Step 6. 4-[4-(2,4-Difluorophenoxy)-1H-benzimidazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A solution of 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (460 mg, 0.897 mmol) in tetrahydrofuran (7.76 mL) was treated with ethyl orthoformate (448 μL, 2.69 mmol) followed by addition of p-toluenesulfonic acid monohydrate (17.1 mg, 0.0897 mmol). The resultant reaction mixture was stirred at 50° C. for 1 h, after which time the reaction mixture was diluted with ethyl acetate and water. Layers were separated and the organic layer was washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give the crude product. Purification by gradient flash column chromatography (50% EtOAc/hexanes to 100% EtOAc) gave the desired product (0.378 g, 81%). LCMS calculated for C27H29F2N4O3Si (M+H)+: m/z=523.2. found: 523.2.

reactant | 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.897 mmol, 460 mg | NC=1C(=C(C=CC1N)C=1C2=C(C(N(C1)C)=O)N(C=C2)COCC[Si](C)(C)C)OC2=C(C=C(C=C2)F)F | C26H30F2N4O3Si
reactant | ethyl orthoformate | 2.69 mmol, 448 μL | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | 0.0897 mmol, 17.1 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 7.76 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[4-(2,4-Difluorophenoxy)-1H-benzimidazol-5-yl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.378 g, 81% | FC1=C(OC2=C(C=CC=3NC=NC32)C=3C2=C(C(N(C3)C)=O)N(C=C2)COCC[Si](C)(C)C)C=CC(=C1)F | C27H28F2N4O3Si
